US06452014B1
To a mixture of 5-dimethoxymetyl-3,6-dimethyl-2-pyridinecarboxaldehyde (53 mg, 0.25 mmol) and 2,4-thiazolidindione (44 mg, 0.38 mmol) in ethanol (5 mL) was added piperidine (0.038 mL, 0.38 mmol), and the mixture was heated to reflux for 16 h. Hydrochloric acid (1 mol/L; 0.4 mL) and water were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried on anhydrous sodium sulfate, and concentrated under reduced pressure. To the residue were added tetrahydrofuran (4 mL) and hydrochloric acid (1 mol/L; 0.5 mL), and the mixture was stirred at room temperature for 7 h. Water was added, and the precipitated products were collected by filtration to afford 5-formyl-3,6-dimethylpyridin-2-ylidene-2,4-thiazolidinedione (43 mg, 66%).

reactant | 5-dimethoxymetyl-3,6-dimethyl-2-pyridinecarboxaldehyde | 0.25 mmol, 53 mg | COC(C=1C=C(C(=NC1C)C=O)C)OC | C11H15NO3
reactant | 2,4-thiazolidindione | 0.38 mmol, 44 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.38 mmol, 0.038 mL | N1CCCCC1 | C5H11N
reactant | Hydrochloric acid | 1 mol/L, 0.4 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-formyl-3,6-dimethylpyridin-2-ylidene-2,4-thiazolidinedione | 43 mg, 66% | C(=O)C=1C=C(C(NC1C)=C1C(NC(S1)=O)=O)C | C11H10N2O3S
